US04618617
A mixture of 0.2 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-methylthioethyl)-1,2,4-oxadiazole and 2 ml of methyl iodide was stirred and refluxed for 10 hours. After the mixture was concentrated to dryness under reduced pressure, the residue was triturated with diethyl ether, collected by filtration and dried to give [5-(3-fluoro-4-phenyl-α-methylbenzyl)1,2,4-oxadiazol-3-ylethyl]dimethylsulfonium iodide as light yellow fine crystals, m.p. 196.5° C. (decomp.).

reactant | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-methylthioethyl)-1,2,4-oxadiazole | 0.2 g | FC=1C=C(C(C)C2=NC(=NO2)CCSC)C=CC1C1=CC=CC=C1 | C19H19FN2OS
reactant | methyl iodide | 2 ml | CI | CH3I
product | [5-(3-fluoro-4-phenyl-α-methylbenzyl)1,2,4-oxadiazol-3-ylethyl]dimethylsulfonium iodide | [I-].FC=1C=C(C(C)C2=NC(=NO2)CC[S+](C)C)C=CC1C1=CC=CC=C1 | InChI=1S/C20H22FN2OS.HI/c1-14(20-22-19(23-24-20)11-12-25(2)3)16-9-10-17(18(21)13-16)15-7-5-4-6-8-15;/h4-10,13-14H,11-12H2,1-3H3;1H/q+1;/p-1
